US05661162
d) 4-Phenyl-4-(2-methoxybenzylaminomethyl)piperidine dihydrochloride
Dry HCl gas was passed through a solution of N-t butoxycarbonyl-4-phenyl-4-(2-methoxybenzylaminomethyl)piperidine (400 mg) in dry ether (50 ml) at 0° C. for 30 minutes. The passage of gas was stopped and the solution allowed to warm to room temperature and stirred for 2 hours. The white precipitate was filtered off and re-crystallised from ethyl acetate to afford the title compound as white needles. Mp=78°-80° C. 1H NMR (360 MHz, DMSO) δ 2.14 (2H, m, C--CH and CHH--C), 2.37 (2H, m, C--CHH and CHH--C), 2.69 (2H, s, N--CHH and CHH--N), 2.78 (2H, m, N--CHH and CHH--N), 3.19 (2H, s, CH2 --NH--CH2), 3.33 (2H, s, CH2 --NH--CH2Ar), 3.57 (3H, s, OCH3), 6.91 (1H, d, J=6.0 Hz, H-6'), 6.96 (1H, t, J=6.0 and 1.0 Hz, H-5'), 7.25 (1H, d, J=6.0 Hz, H-3'), 7.37 (1H, t, J=6.0 and 1.0 Hz, H-4'), 7.41-7.73 (5H, m, Ar H); MS (CI+) 311 (M+H+); C20H27N2O.2HCl.H2O requires C, 59.70; H, 7.77; N, 6.96. Found: C, 59.36; H, 7.95; N, 6.80%.

reactant | HCl | Cl | ClH
reactant | N-t butoxycarbonyl-4-phenyl-4-(2-methoxybenzylaminomethyl)piperidine | 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)(CNCC1=C(C=CC=C1)OC)C1=CC=CC=C1 | C25H34N2O3
solvent | ether | 50 ml | CCOCC | C4H10O
product | 4-Phenyl-4-(2-methoxybenzylaminomethyl)piperidine dihydrochloride | Cl.Cl.C1(=CC=CC=C1)C1(CCNCC1)CNCC1=C(C=CC=C1)OC | InChI=1S/C20H26N2O.2ClH/c1-23-19-10-6-5-7-17(19)15-22-16-20(11-13-21-14-12-20)18-8-3-2-4-9-18;;/h2-10,21-22H,11-16H2,1H3;2*1H
